US07858640B2
3-(4-chlorobenzyl)-5-hydroxy-4,7-dimethyl-1H-quinolin-2-one
A mixture of 3-amino-5-methylphenol (0.25 g) and 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester (0.52 g) was heated at 150° C. under nitrogen for 7 hours. The mixture was cooled to room temperature and the residue triturated with methanol to afford the title compound as an off-white solid, 0.32 g.

reactant | 3-amino-5-methylphenol | 0.25 g | NC=1C=C(C=C(C1)C)O | C7H9NO
reactant | 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester | 0.52 g | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)Cl)=O | C13H15ClO3
product | 3-(4-chlorobenzyl)-5-hydroxy-4,7-dimethyl-1H-quinolin-2-one | ClC1=CC=C(CC=2C(NC3=CC(=CC(=C3C2C)O)C)=O)C=C1 | C18H16ClNO2
